Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C@@:2]([C:3]([O:4][H:14])([H:12])[H:13])([N:5]([C:6](=[O:7])[H:16])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C-:2]([C:3]([O:4][H:14])([H:12])[H:13])=[N+:5]([C:6](=[O:7])[H:16])[H:15].[C:1]([H:8])([H:9])([H:10])[H:11],76.10880276748
[C:1]1([H:7])([H:8])[C@:2]2([H:9])[C@:3]3([H:10])[C:4]([H:11])([H:12])[C@@:5]1([H:13])[N:6]23>>[C:1]1([H:7])([H:8])[C@:2]2([H:9])[C@@:3]3([H:10])[C@:4]2([H:11])[C@:5]1([H:13])[N:6]3[H:12],77.48040981096051
[N:1]([C:2]([C@@:3]([N:4]([H:12])[H:13])([C:5]#[N:6])[H:11])([H:9])[H:10])([H:7])[H:8]>>[C:2]1([H:9])([H:10])[C@@:3]([C:5]#[N:6])([H:11])[N:4]1[H:13].[N:1]([H:7])([H:8])[H:12],69.98615683683
[C:1]([N:7]([H:13])[H:14])([H:8])([H:9])[H:10].[C:2]([C:3](=[O:4])[H:12])(=[C:5]=[O:6])[H:11]>>[C:1]([C@@:2]([C:3](=[O:4])[H:12])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],53.0859257935777
[C:1]([N+:6]#[C:5][C:4]([N:3]([C-:2]([H:10])[H:11])[H:12])([H:13])[H:14])([H:7])([H:8])[H:9]>>[C:1]([C:2]([N:3]([C:4]([C:5]#[N:6])([H:13])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],15.714012358791095
[N:1]([C:2](=[O+:3][C:6]([O:7][H:15])([H:13])[H:14])[N:4]([C-:5]([H:11])[H:12])[H:10])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[N:4]([C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])[H:10])([H:8])[H:9],12.341033139998899
[C:1]([C:2]([H:11])([H:12])[H:13])([H:8])([H:9])[H:10].[C:3]([O:4][H:14])[C:5]([C:6]#[N:7])([H:15])[H:16]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]#[N:7])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],12.754055473218706
[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])=[C:5]([H:16])[H:17])([H:10])[H:11])([H:7])([H:8])[H:9].[O:6]([H:12])[H:18]>>[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5]([O:6][H:18])([H:16])[H:17])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],53.833810547711096
[N:1]([C:2](=[O:3])[C:4]([C:5]([O:6][H:13])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8]>>[H:8][H:9].[N:1](=[C:2]1\[O:3][C@@:4]1([C:5]([O:6][H:13])([H:11])[H:12])[H:10])\[H:7],90.0811772278825
[C:1]([C:2]([O:3][C:4]([C:5][O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3][C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],24.66073350298261
[C:1]([O:2]/[C:3](=[N:4]/[C:5]([H:10])([H:11])[H:12])[C:6]([H:13])([H:14])[H:15])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[H:15].[O:2]=[C:3]1[N:4]([C:5]([H:10])([H:11])[H:12])[C:6]1([H:13])[H:14],79.4255647143158
[C:1]([C:2]([C:3](=[O:4])[C:5]#[C:6][C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]#[C:5][C:6](=[O:4])[C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],70.2982513175089
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])/[C:4](=[N:5]/[H:12])[C:7]#[C:6]1)[H:8]>>[O:1]([C@@:2]([C:3]([C:4]#[N:5])([H:10])[H:11])([C:6]#[C:7][H:12])[H:9])[H:8],21.897063254907195
[C:1](/[N:2]=[C:3](\[N:4]([H:10])[H:11])[C:5]#[N:6])([H:7])([H:8])[H:9]>>[C:1]([N:2]=[C:3]=[N:4][H:10])([H:7])([H:8])[H:9].[C:5](#[N:6])[H:11],49.7422493255996
[O:1]([C@@:2]([C:3](=[O:4])[H:9])([C:5]#[C:6][H:10])[H:8])[H:7]>>[O:1](/[C:2](=[C:3](\[O:4][H:7])[H:9])[C:5]#[C:6][H:10])[H:8],51.52194510849179
[C:1]([O:2]/[C:3](=[N:4]/[C:5]([H:10])([H:11])[H:12])[H:9])([H:6])([H:7])[H:8]>>[C-:3]#[N+:4][C:5]([H:10])([H:11])[H:12].[C:1]([O:2][H:9])([H:6])([H:7])[H:8],66.3910069411987
[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3]([C:5]#[N:6])([H:8])[H:10])([H:7])[H:9].[C:4]([H:11])([H:12])[H:13],119.252537343163
[C:1]([O:2][C:3](=[O:4])[C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1](=[O:2])([H:8])[H:10].[C:3](=[O:4])=[C:5]([H:11])[H:12].[C:6](=[O:7])([H:9])[H:13],67.1459808782246
[C:1]([C:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5]([O:6][H:16])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:1](/[C:2]([C:3]([O:4][H:13])([H:11])[H:12])=[C:5](/[O:6][H:16])[H:15])([H:7])([H:8])[H:9].[H:10][H:14],99.1816963234222
[O:1]([C:2]([C:3]([O:4]/[C:5](=[N:6]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]([C:2]([N:6]([C:5](=[O+:4][C-:3]([H:10])[H:11])[H:12])[H:13])([H:8])[H:9])[H:7],82.24971770586
[C:6](#[C:7][H:10])[H:9].[N:1](=[C:2]=[O:5])[H:8].[N:3]#[N:4]>>[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4],54.412619888833206
[C:1](=[C-:2])([N+:4]#[C:3])[C:5]#[N:6]>>[C:1](#[C:2][C:3]#[N:4])[C:5]#[N:6],14.924000524275314
[C:1]([C:2]1([C:3]([H:10])([H:11])[H:12])[O:4][C:6]([H:13])([H:14])[C:5]1)([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([O:4][H:13])[C:5]#[C:6][H:14])([H:7])([H:8])[H:9],31.6474342503059
[N:1]([C:2](=[O:3])[C:4]([C:5]#[C:6][H:11])([H:9])[H:10])([H:7])[H:8]>>[N:1](=[C:2](/[O:3][H:8])[C:4]([C:5]#[C:6][H:11])([H:9])[H:10])\[H:7],42.44906236196029
[C:1]([C:2]#[C:3][C@@:4]([C:5]([H:11])([H:12])[H:13])([O:6][H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]#[C:3][C:4]([C:5]([H:11])([H:12])[H:13])=[O:6])([H:7])([H:8])[H:9].[H:10][H:14],77.9301909324975
